US07112697B1
Cyclohexyl-phenyl sulfide (entry 12, Table 3):
The general procedure was used to convert iodobenzene and cyclohexylmercaptan to the title product. Purification by flash chromatography (hexane as the eluent) gave the analytically pure product as a clear oil (297 mg, 77% yield). 1H NMR (300 MHz, CDCl3) δ 7.44 (dd, J=6.97, 2H; Ha, Ha′), 7.35–7.22 (m, 3H; Hb, Hb′, Hc,), 3.19–3.11 (m, 1H; Hd), 2.04 (m, 2H; He, Hi), 1.82 (m, 2H; He′, Hi′), 1.65 (m, 1H; Hg), 1.48–1.26 (m, 5H; Hh, Hf, Hh′, Hf′, Hg′). 13C NMR (75 MHz, CDCl3) δ 135.11 (C1), 131.75 (C3, C5), 128.64 (C2, C6), 126.46 (C4), 46.44 (C7), 33.26 (C8, C12), 25.97 (C10), 25.69 (C9, C11). Anal. Calcd. for C12H16S: C, 74.94; H, 8.39; S, 16.67; Found C, 75.06; H, 8.40; S, 16.54.

reactant | iodobenzene | IC1=CC=CC=C1 | C6H5I
reactant | cyclohexylmercaptan | C1(CCCCC1)S | C6H12S
product | Cyclohexyl-phenyl sulfide | C1(CCCCC1)SC1=CC=CC=C1 | C12H16S
